US05990142
5C Ethyl 5-bromo-2-benzofurancarboxylate
A solution of 5-bromo-2-benzofurancarboxylic acid (5.01 g, 20.8 mmol) in absolute ethanol (150 ml) was added with concentrated sulfuric acid (15 ml) and the mixture was refluxed under stirring for 2 h. After this time, the volatiles were evaporated off under reduced pressure and the resulting residue was neutralized with a sodium bicarbonate saturated solution and extracted with ethyl ether (4×100 ml). The mixture was dried and the solvent was evaporated off under reduced pressure, to obtain 5.19 g of the title compound as a white solid with melting point 58-60° C. (93% yield).

reactant | 5-bromo-2-benzofurancarboxylic acid | 20.8 mmol, 5.01 g | BrC=1C=CC2=C(C=C(O2)C(=O)O)C1 | C9H5BrO3
reactant | sulfuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 150 ml | C(C)O | C2H6O
product | Ethyl 5-bromo-2-benzofurancarboxylate | 5.19 g, 93% yield | BrC=1C=CC2=C(C=C(O2)C(=O)OCC)C1 | C11H9BrO3
